US07465731B2
To a suspension of (2E)-3-(6-{[(3R)-1-(4-tert-butylbenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (270 mg) was suspended in methanol (1 mL) and to this suspension was added hydrogen chloride in methanol solution (10%, 3 mL). The mixture was stirred at ambient temperature for 15 minutes and concentrated in vacuo. The residual solid was triturated with acetonitrile to give (2E)-3-(6-{[(3R)-1-(4-tert-butylbenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)-N-hydroxyacrylamide dihydrochloride (228 mg) as a pale tan solid.

reactant | (2E)-3-(6-{[(3R)-1-(4-tert-butylbenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 270 mg | C(C)(C)(C)C1=CC=C(CN2C[C@@H](CC2)NC2=CC=C(C=N2)/C=C/C(=O)NOC2OCCCC2)C=C1 | C28H38N4O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
solvent | methanol | 3 mL | CO | CH4O
product | (2E)-3-(6-{[(3R)-1-(4-tert-butylbenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)-N-hydroxyacrylamide dihydrochloride | 228 mg | Cl.Cl.C(C)(C)(C)C1=CC=C(CN2C[C@@H](CC2)NC2=CC=C(C=N2)/C=C/C(=O)NO)C=C1 | InChI=1S/C23H30N4O2.2ClH/c1-23(2,3)19-8-4-18(5-9-19)15-27-13-12-20(16-27)25-21-10-6-17(14-24-21)7-11-22(28)26-29;;/h4-11,14,20,29H,12-13,15-16H2,1-3H3,(H,24,25)(H,26,28);2*1H/b11-7+;;/t20-;;/m1../s1
